US09102614B2
Preparation of 2-tert-butoxy-2-(1-(4-chlorophenyl)-4-((dimethylamino)methyl)-3-methylnaphthalen-2-yl)acetic acid (133):
A suspension of ethyl 2-tert-butoxy-2-(1-(4-chlorophenyl)-4-formyl-3-methylnaphthalen-2-yl)acetate (6.0 mg, 13.9 μmol), EtOH (absolute, 500 μL), NaBH(OAc)3 (8.8 mg, 41.7 μmol), and glacial AcOH (4 μL, 70 μmol) was treated with a solution of N,N-dimethylamine in MeOH (2 M, 35 μL, 69.5 μmol). DCM (50 μL) was added to improve solubility. The reaction was sealed and heated to 70° C. Conversion was limited, so more N,N-dimethylamine in MeOH (2 M, 170 μL, 0.337 mmol), glacial AcOH (20 μL, 0.35 mmol), NaBH(OAc)3 (50 mg, 0.236 mmol), and DMF (500 μL) were added. Heating was continued. Once conversion was achieved, LiOH monohydrate (200 mg, 4.7 mmol) and H2O (1.0 mL) were added. The reaction was sealed and heated to 100° C. overnight. Afterward, the reaction was filtered through a 0.45 micron filter, and directly purified by reverse phase HPLC (Gemini, 5 to 100% ACN/H2O+0.1% TFA). The product-containing fractions were combined and lyophilized, giving the title compound (mono trifluoroacetic acid salt) (1.0 mg, 13%). LCMS-ESI+ (m/z): [M+H]+ calcd for C26H31ClNO3: 440.2; Found: 440.0.

reactant | ethyl 2-tert-butoxy-2-(1-(4-chlorophenyl)-4-formyl-3-methylnaphthalen-2-yl)acetate | 13.9 μmol, 6.0 mg | C(C)(C)(C)OC(C(=O)OCC)C1=C(C2=CC=CC=C2C(=C1C)C=O)C1=CC=C(C=C1)Cl | C26H27ClO4
reactant | NaBH(OAc)3 | 41.7 μmol, 8.8 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | AcOH | 70 μmol, 4 μL | CC(=O)O | C2H4O2
reactant | N,N-dimethylamine | CNC | C2H7N
reactant | MeOH | 69.5 μmol, 2 M, 35 μL | CO | CH4O
reactant | MeOH | 0.337 mmol, 2 M, 170 μL | CO | CH4O
reactant | AcOH | 0.35 mmol, 20 μL | CC(=O)O | C2H4O2
reactant | NaBH(OAc)3 | 0.236 mmol, 50 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | H2O | 1.0 mL | O | H2O
solvent | DMF | 500 μL | CN(C)C=O | C3H7NO
solvent | DCM | 50 μL | C(Cl)Cl | CH2Cl2
solvent | EtOH | 500 μL | CCO | C2H6O
product | 2-tert-butoxy-2-(1-(4-chlorophenyl)-4-((dimethylamino)methyl)-3-methylnaphthalen-2-yl)acetic acid | 1.0 mg, 13% | C(C)(C)(C)OC(C(=O)O)C1=C(C2=CC=CC=C2C(=C1C)CN(C)C)C1=CC=C(C=C1)Cl | C26H30ClNO3
